US07439260B2
4-(4-fluorophenyl)-7-({5-[(1R)-1-hydroxy-1-(trifluoromethyl)propyl}-1,3-thiazol-2-yl}sulfinyl)-2H-chromen-2-one
To a solution of 4-(4-fluorophenyl)-7-({5-[(1R)-1-hydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-2H-chromen-2-one (0.100 g, 0.2 mmol) in 7 ml of CH2Cl2 and 0.7 ml of MeOH, was added magnesium monoperoxyphthalate hexahydrate (0.051 g, 0.1 mmol). The mixture was stirred at rt overnight and partitioned between water and CH2Cl2. The layers were separated and the organic phase washed with brine, dried over MgSO4 and evaporated to dryness. The residue was chromatographed on silica gel (hexane/EtOAc; 8:2) to give two diastereoisomers. 1H NMR (400 MHz, CDCl3): δ 7.9 (s, 1H), 7.85 (s, 1H), 7.67 (dd, 2H), 7.45 (m, 2H), 7.25 (m, 2H), 6.47 (s, 1H), 2.12 (m, 2H), 0.92 (t, 3H). Diastereoisomer #2: 1H NMR (400 MHz, CDCl3): δ 7.9 (s, 1H), 7.82 (s, 1H), 7.67 (dd, 2H), 7.45 (m, 2H), 7.25 (m, 2H), 6.47 (s, 1H), 2.15 (m, 2H), 0.95 (t, 3H).

reactant | 4-(4-fluorophenyl)-7-({5-[(1R)-1-hydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-2H-chromen-2-one | 0.2 mmol, 0.100 g | FC1=CC=C(C=C1)C1=CC(OC2=CC(=CC=C12)SC=1SC(=CN1)[C@@](CC)(C(F)(F)F)O)=O | C22H15F4NO3S2
reactant | magnesium monoperoxyphthalate hexahydrate | 0.1 mmol, 0.051 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 0.7 ml | CO | CH4O
product | 4-(4-fluorophenyl)-7-({5-[(1R)-1-hydroxy-1-(trifluoromethyl)propyl}-1,3-thiazol-2-yl}sulfinyl)-2H-chromen-2-one | FC1=CC=C(C=C1)C1=CC(OC2=CC(=CC=C12)S(=O)C=1SC(=CN1)[C@@](CC)(C(F)(F)F)O)=O | C22H15F4NO4S2
